US04885298
A solution containing 30.3 g 3-hydroxymethylidene-flavanone, 18.5 g ammonium acetate, and 6 ml glacial acetic acid in 300 ml toluene is refluxed for one hour. After cooling the solution is neutralized with a saturated sodium bicarbonate aqueous solution. The precipitate is filtered off, then dissolved in methylene chloride, washed with water, dried and evaporated. Pure 3-aminomethylidene-flavanone is obtained as pale yellow crystals; m.p. 149°-152° C.

reactant | 3-hydroxymethylidene-flavanone | 30.3 g | OC=C1C(OC2=CC=CC=C2C1=O)C1=CC=CC=C1 | C16H12O3
reactant | ammonium acetate | 18.5 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 3-aminomethylidene-flavanone | NC=C1C(OC2=CC=CC=C2C1=O)C1=CC=CC=C1 | C16H13NO2
